US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.55 g, 4.82 mmol), 2-chloro-4-(naphthalen-1-ylthio)pyridine (1.44 g, 5.30 mmol), potassium phosphate (1.12 g, 5.30 mmol), Tris(dibenzylideneacetone)dipalladium (0) (0.110 g, 0.120 mmol) and 4,5-bis(diphenyl-phosphino)-9,9-dimethyl-9H-xanthene (0.0767 g, 0.132 mmol) were reacted in toluene (12 mL) and water (4 mL) to afford N-(4-methylthiazol-2-yl)-4-(naphthalen-1-ylthio)pyridin-2-amine (0.2 g, 11% yield) as yellow solid. 1H NMR (CDCl3) δ 8.26 (m, 1H), 8.01 (m, 2H), 7.93 (m, 1H), 7.90 (dd, 1H), 7.54 (m, 3H), 6.49 (dd, 1H), 6.28 (d, 1H), 6.25 (d, 1H), 2.21 (d, 3H); Mass spectrum (esi) m/z 350 (100) (M+H).

reactant | 4-methylthiazol-2-amine | 4.82 mmol, 0.55 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(naphthalen-1-ylthio)pyridine | 5.30 mmol, 1.44 g | ClC1=NC=CC(=C1)SC1=CC=CC2=CC=CC=C12 | C15H10ClNS
reactant | potassium phosphate | 5.30 mmol, 1.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenyl-phosphino)-9,9-dimethyl-9H-xanthene | 0.132 mmol, 0.0767 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.120 mmol, 0.110 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 4 mL | O | H2O
product | N-(4-methylthiazol-2-yl)-4-(naphthalen-1-ylthio)pyridin-2-amine | 0.2 g, 11% yield | CC=1N=C(SC1)NC1=NC=CC(=C1)SC1=CC=CC2=CC=CC=C12 | C19H15N3S2
